US06350762B1
3.53 g (22.9 mmol) of 2-cyanoethyl 3-aminocrotonate, 4.40 g (22.9 mmol) of benzyl acetoacetate and 2.60 ml (23.0 mmol) of 3-chlorobenzaldehyde were heated at 80° C. under stirring in 100 ml of 2-propanol for 3 days. 2-Propanol was evaporated under reduced pressure to obtain 5-benzyl 3-(cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate. 100 ml of ethyl acetate and 10% palladium/carbon were added to the reaction mixture and they were stirred at room temperature in hydrogen atmosphere under atmospheric pressure for 7 days. The reaction liquid was filtered, and the filtrate was evaporated under reduced pressure. The residue was washed with chloroform to obtain the title compound.

reactant | 2-cyanoethyl 3-aminocrotonate | 22.9 mmol, 3.53 g | N\C(=C/C(=O)OCCC#N)\C | C7H10N2O2
reactant | benzyl acetoacetate | 22.9 mmol, 4.40 g | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | 3-chlorobenzaldehyde | 23.0 mmol, 2.60 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | 5-benzyl 3-(cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC1=CC=CC=C1)C)C)C(=O)OCCC#N | C25H23ClN2O4
